US04490533
A. 2-(6-Dimethylaminomethyl-2-pyridylthio)ethylamine
Cysteamine hydrochloride (3.43 g, 0.030 mol) is added to a suspension of 60% sodium hydride in mineral oil (2.5 g, 0.0625 mol) in dry dimethylformamide (30 ml) and is warmed to 80° C. A solution of 6-dimethylaminomethyl-2-chloropyridine (5.0 g, 029.4 mol) in 30 ml of dry dimethylformamide is added dropwise and the reaction temperature is increased to 125° C. for 2 hours. The reaction is cooled, diluted with ethanol (60 ml) and the salts are removed by filtration before evaporating to dryness. This residue is dissolved in chloroform, washed with water and extracted into dilute hydrochloric acid. The acidic extract is neutralized with sodium carbonate and the product is extracted into chloroform, dried and evaporated to give 4.4 g. This residual oil is distilled to give 2.74 g of pure product, bp: 109°-114° C./0.25 mm.

reactant | Cysteamine hydrochloride | 0.030 mol, 3.43 g | Cl.NCCS
reactant | sodium hydride | [H-].[Na+]
reactant | 6-dimethylaminomethyl-2-chloropyridine | 5.0 g | CN(C)CC1=CC=CC(=N1)Cl | C8H11ClN2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-(6-Dimethylaminomethyl-2-pyridylthio)ethylamine | 2.74 g | CN(C)CC1=CC=CC(=N1)SCCN | C10H17N3S
